US07034026B2
Step 2: Preparation of 4,4′-diaminobenzil
3.8 g of 4,4′-dinitrobenzil was reduced under hydrogen with 3.8 g 10% Ru on C in EtOH. The mixture was filtered through Supracel and the filtrate concentrated under vacuum to dryness. The residue was dissolved in 50% denatured ethanol in water, treated with Darco and filtered. The filtrate was cooled to 0° C. and the resulting crystals were collected and washed with 50% denatured ethanol in water. The crystals were then dried under a heat lamp to give the title compound as a yellow powder.

reactant | 4,4′-dinitrobenzil | 3.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H8N2O6
solvent | EtOH | CCO | C2H6O
product | 4,4′-diaminobenzil | NC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)N | C14H12N2O2
